US05371080
5,6-Dichloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]quinazoline
A stirred mixture of 6-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-oxo-imidazo[1,5-a]quinazoline (1.0 g), tripropylamine (0.5 ml) and phosphorus oxychloride (5 ml) was heated at 140°-150° C. After 1 hour, more POCI3 (5 ml) and tripropylamine (0.5 ml) was added, and heating was continued for 11/2 hours. Then the warm mixture was poured into 200 ml of ice water with vigorous stirring. After 15 min. 100 ml of dichloromethane was added. Undissolved material was collected by filtration, rinsed with diethyl ether and dried to give the title compound as tan crystals, m.p. 238°-240° C. Yield 0.47 g.

reactant | 6-chloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-oxo-imidazo[1,5-a]quinazoline | 1.0 g | ClC1=C2C(NC=3N(C2=CC=C1)C=NC3C3=NC(=NO3)C3CC3)=O | C15H10ClN5O2
reactant | tripropylamine | 0.5 ml | C(CC)N(CCC)CCC | C9H21N
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tripropylamine | 0.5 ml | C(CC)N(CCC)CCC | C9H21N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5,6-Dichloro-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-imidazo[1,5-a]quinazoline | ClC1=NC=2N(C3=CC=CC(=C13)Cl)C=NC2C2=NC(=NO2)C2CC2 | C15H9Cl2N5O
